* c:\users\dell\esim-workspace\mod-10_ripple\mod-10_ripple.cir

.include avsd_opamp.sub
.include "C:\FOSSEE\eSim\library\sky130_fd_pr\models\sky130_fd_pr__model__diode_pw2nd_11v0.model.spice"
.include "C:\FOSSEE\eSim\library\sky130_fd_pr\models\sky130_fd_pr__model__inductors.model.spice"
.include "C:\FOSSEE\eSim\library\sky130_fd_pr\models\sky130_fd_pr__model__diode_pd2nw_11v0.model.spice"
.include "C:\FOSSEE\eSim\library\sky130_fd_pr\models\sky130_fd_pr__model__linear.model.spice"
.lib "C:\FOSSEE\eSim\library\sky130_fd_pr\models\sky130.lib.spice" tt
.include "C:\FOSSEE\eSim\library\sky130_fd_pr\models\sky130_fd_pr__model__r+c.model.spice"
.include "C:\FOSSEE\eSim\library\sky130_fd_pr\models\sky130_fd_pr__model__pnp.model.spice"
* s c m o d e
* u3  clkin rst net-_u2-pad1_ net-_u2-pad2_ adc_bridge_2
v4  rst gnd pulse(5 0 0 0 0 8m 10m)
* u2  net-_u2-pad1_ net-_u2-pad2_ net-_u2-pad3_ net-_u2-pad4_ net-_u2-pad5_ net-_u2-pad6_ mod_10
* u5  net-_u2-pad3_ net-_u2-pad4_ net-_u2-pad5_ net-_u2-pad6_ q1 q2 q3 q4 dac_bridge_4
* u4  q1 plot_v1
* u7  q2 plot_v1
* u8  q3 plot_v1
* u6  q4 plot_v1
* u9  rst plot_v1
x1 vd vs net-_sc3-pad2_ net-_sc1-pad1_ clkin gnd avsd_opamp
xsc2 net-_sc1-pad1_ clkin vdd sky130_fd_pr__res_generic_pd L=24.1
xsc3 clkin net-_sc3-pad2_ vdd sky130_fd_pr__res_generic_pd L=52
xsc4 net-_sc3-pad2_ gnd vdd sky130_fd_pr__res_generic_pd L=52
xsc1 net-_sc1-pad1_ gnd sky130_fd_pr__cap_mim_m3_1 W=10000 L=1 MF=1
v1 vd gnd  dc 5
* u1  clkin plot_v1
v2 vdd gnd  dc 5
v3 vs gnd  dc -5
a1 [clkin rst ] [net-_u2-pad1_ net-_u2-pad2_ ] u3
a2 [net-_u2-pad1_ ] [net-_u2-pad2_ ] [net-_u2-pad3_ net-_u2-pad4_ net-_u2-pad5_ net-_u2-pad6_ ] u2
a3 [net-_u2-pad3_ net-_u2-pad4_ net-_u2-pad5_ net-_u2-pad6_ ] [q1 q2 q3 q4 ] u5
* Schematic Name:                             adc_bridge_2, NgSpice Name: adc_bridge
.model u3 adc_bridge(in_low=1.0 in_high=2.0 rise_delay=1.0e-9 fall_delay=1.0e-9 ) 
* Schematic Name:                             mod_10, NgSpice Name: mod_10
.model u2 mod_10(rise_delay=1.0e-9 fall_delay=1.0e-9 input_load=1.0e-12 instance_id=1 ) 
* Schematic Name:                             dac_bridge_4, NgSpice Name: dac_bridge
.model u5 dac_bridge(out_low=0.0 out_high=5.0 out_undef=0.5 input_load=1.0e-12 t_rise=1.0e-9 t_fall=1.0e-9 ) 
.tran 1.5e-03 100e-03 0e-03

* Control Statements 
.control
run
print allv > plot_data_v.txt
print alli > plot_data_i.txt
plot v(q0)
plot v(q1)
plot v(q2)
plot v(q3)
plot v(rst)
plot v(clk)
plot v(clk) v(rst)+5  v(q3)+10 v(q2)+18 v(q1)+27 v(q0)+35
.endc
.end
